US08236835B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)pyrrolidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 2, making variation as required to use N-benzyl-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide in place of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide to react with 1-(bromomethyl)-4-(trifluoromethyl)benzene, the title compound was obtained as a white solid in 27% yield: mp 174-175° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.54 (d, J=8.0 Hz, 2H), 7.39-7.20 (m, 7H), 6.01 (t, J=5.6 Hz, 1H), 4.57 (d, J=5.6 Hz, 2H), 4.14-4.02 (m, 1H), 3.93-3.79 (m, 1H), 3.35-3.24 (m, 1H), 3.09-2.96 (m 1H), 2.90-2.80 (m, 1H), 2.61 (s, 3H), 2.34-2.19 (m, 1H), 1.95-1.81 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 174.4, 162.3, 155.3, 152.6, 142.4, 137.8, 129.3, 128.8, 127.9, 127.7, 125.7, 125.6, 125.5, 118.8, 45.9, 44.2, 44.1, 36.2, 24.4, 17.2; MS (ES+) m/z 474.1 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCC1)=O)C | C16H17N3O2S
reactant | 1-(bromomethyl)-4-(trifluoromethyl)benzene | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
product | N-benzyl-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)pyrrolidin-1-yl)thiazole-5-carboxamide | 27% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C24H22F3N3O2S
